US08975411B2
Synthesis of tert-butyl({[mesityl(methyl)amino]acetyl}amino)(imino)methylcarbamate
[Mesityl(methyl)amino]acetic acid (6.67 g; 32 mmol), diisopropylethylamine (20.68 g; 160 mmol), tert-butyl amino(imino)methylcarbamate (6.11 g; 38 mmol), and 1-hydroxybenzotriazole monohydrate (5.88 g; 38 mmol) were dissolved in N,N-dimethylformamide (150 mL), 2-(1H)-benzotriazol-1-yl-1,1,3,3-tetramethyluronium hexafluorophosphate (14.56 g; 38 mmol) was added thereto, and the mixture was stirred for 65 hours at room temperature. To the reaction solution, ethyl acetate (400 mL) was added, and the mixture was washed with 10% aqueous citric acid solution, brine, and saturated aqueous sodium bicarbonate solution. The organic layer was dried over anhydrous magnesium sulfate and then distilled under reduced pressure. The resulting crystals were dispersed in diethyl ether, collected by filtration and dried to give 5.82 g of the title compound (yield 52%).

reactant | [Mesityl(methyl)amino]acetic acid | 32 mmol, 6.67 g | C1(=C(C(=CC(=C1)C)C)N(C)CC(=O)O)C | C12H17NO2
reactant | diisopropylethylamine | 160 mmol, 20.68 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tert-butyl amino(imino)methylcarbamate | 38 mmol, 6.11 g | NN(C(OC(C)(C)C)=O)C=N | C6H13N3O2
reactant | 1-hydroxybenzotriazole monohydrate | 38 mmol, 5.88 g | O.ON1N=NC2=C1C=CC=C2
reactant | 2-(1H)-benzotriazol-1-yl-1,1,3,3-tetramethyluronium hexafluorophosphate | 38 mmol, 14.56 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl({[mesityl(methyl)amino]acetyl}amino)(imino)methylcarbamate | 5.82 g, yield 52% | C(C)(C)(C)OC(N(C=N)NC(CN(C)C1=C(C=C(C=C1C)C)C)=O)=O | C18H28N4O3
